### PR TITLE
feat(LinearAlgebra/MultilinearMap): generalize `MultilinearMap` with common `RingHom`

### PR DESCRIPTION
**Pull request by gloges**
Generalizes multilinear maps to multi-semilinear maps.
In analogy with `LinearMap σ M N`, `MultilinearMap σ M N` is the space of multilinear maps from the `R`-module `∀ i, M i` to the `S`-module `N` over a ring homomorphism `σ : R →+* S`: fixing all but one coordinate gives a map `M i →ₛₗ[σ] N`.

**Breaking change**: to use the previous multilinear map, change `MultilinearMap R M N` to `MultilinearMap (.id R) M N`.

Both `ContinuousMultilinearMap` and `AlternatingMap` extend `MultilinearMap` and are left defined in terms of `RingHom.id`.

---

- [ ] depends on: #43877

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 1]
```diff
@@ -789,90 +798,96 @@ end MultilinearMap
...
     (g₁ + g₂).compMultilinearMap f = g₁.compMultilinearMap f + g₂.compMultilinearMap f := rfl
 
 @[simp]
-theorem compMultilinearMap_smul [DistribSMul S M₂] [DistribSMul S M₃]
-    [SMulCommClass R S M₂] [SMulCommClass R S M₃] [CompatibleSMul M₂ M₃ S R]
-    (g : M₂ →ₗ[R] M₃) (s : S) (f : MultilinearMap R M₁ M₂) :
-    g.compMultilinearMap (s • f) = s • g.compMultilinearMap f :=
+theorem compMultilinearMap_smul [DistribSMul S' N₂] [DistribSMul S' N₂']
+    [SMulCommClass R₂ S' N₂] [SMulCommClass R₂ S' N₂'] [CompatibleSMul N₂ N₂' S' R₂]
+    (g : N₂ →ₗ[R₂] N₂') (s : S') (f : MultilinearMap σ₁₂ M₁ N₂) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Do we want a semilinear version of this lemma too?

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 2]
```diff
@@ -882,90 +897,90 @@ namespace MultilinearMap
...
 
 This is `LinearMap.compMultilinearMap` as an `S`-linear equivalence,
 and the multilinear version of `LinearEquiv.congrRight`. -/
 @[simps! apply symm_apply]
-def _root_.LinearEquiv.multilinearMapCongrRight
-    [LinearMap.CompatibleSMul M₂ M₃ S R] [LinearMap.CompatibleSMul M₃ M₂ S R] (g : M₂ ≃ₗ[R] M₃) :
-    MultilinearMap R M₁ M₂ ≃ₗ[S] MultilinearMap R M₁ M₃ where
+def _root_.LinearEquiv.multilinearMapCongrRight [LinearMap.CompatibleSMul N₂ N₂' S R₂]
+    [LinearMap.CompatibleSMul N₂' N₂ S R₂] (g : N₂ ≃ₗ[R₂] N₂') :
+    MultilinearMap σ₁₂ M₁ N₂ ≃ₗ[S] MultilinearMap σ₁₂ M₁ N₂' where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:937]: Here I think we can introduce another ring in `g`

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 3]
```diff
@@ -1087,61 +1103,76 @@ sending a multilinear map `g` to `g (f₁ ⬝ , ..., fₙ ⬝ )` is linear in `g
...
 /-- If one multiplies by `c i` the coordinates in a finset `s`, then the image under a multilinear
-map is multiplied by `∏ i ∈ s, c i`. This is mainly an auxiliary statement to prove the result when
-`s = univ`, given in `map_smul_univ`, although it can be useful in its own right as it does not
+map is multiplied by `∏ i ∈ s, σ (c i)`. This is mainly an auxiliary statement to prove the result
+when `s = univ`, given in `map_smul_univ`, although it can be useful in its own right as it does not
 require the index set `ι` to be finite. -/
-theorem map_piecewise_smul [DecidableEq ι] (c : ι → R) (m : ∀ i, M₁ i) (s : Finset ι) :
-    f (s.piecewise (fun i => c i • m i) m) = (∏ i ∈ s, c i) • f m := by
+theorem map_piecewise_smul [DecidableEq ι] (c : ι → R) (m : ∀ i, M i) (s : Finset ι) :
+    f (s.piecewise (fun i => c i • m i) m) = (∏ i ∈ s, σ (c i)) • f m := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1197]: Would we prefer the following, do you think?
```suggestion
    f (s.piecewise (fun i => c i • m i) m) = σ (∏ i ∈ s, c i) • f m := by
```

File: Mathlib/LinearAlgebra/PiTensorProduct/Basic.lean [hunk 4]
```diff
@@ -390,18 +390,21 @@ variable {s}
 
 section lift
 
+variable {σ : R →+* R}
+
 /-- Auxiliary function to constructing a linear map `(⨂[R] i, s i) → E` given a
 `MultilinearMap R s E` with the property that its composition with the canonical
 `MultilinearMap R s (⨂[R] i, s i)` is the given multilinear map. -/
-def liftAux (φ : MultilinearMap R s E) : (⨂[R] i, s i) →+ E :=
+def liftAux (φ : MultilinearMap (.id R) s E) : (⨂[R] i, s i) →+ E :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PiTensorProduct/Basic.lean:396]: Is the intent to generalize this in a follow-up PR?

**Review by eric-wieser — COMMENTED** [review]
This looks great, thanks! I think it's ok to keep `MultilinearMap (.id R)` around in downstream files in this PR, and address those in a follow-up.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 1 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Sounds good - added as `compMultilinearMap_smulₛₗ`.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 2 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:937]: I've added `LinearMap.compMultilinearMapₛₗ` and `LinearEquiv.multilinearMapCongrRightₛₗ` for when `R₂` and `R₃` are commutative (making use of the new `compMultilinearMap_smulₛₗ`). Are these name okay?

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 3 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1197]: I think `∏ i ∈ s, σ (c i)` would be better - it doesn't require that `R` be commutative and is in normal form even when it is (c.f. [map_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Group/Finset/Defs.html#map_prod)).

File: Mathlib/LinearAlgebra/PiTensorProduct/Basic.lean (hunk 4 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/PiTensorProduct/Basic.lean:396]: Yes - after some tinkering I think it will take more than superficial changes to generalize the `TensorProduct.lift` and `TensorProduct.map` machinery, so I'd like to do this in a separate PR.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 5]
```diff
@@ -362,61 +369,61 @@ def compLinearMap (g : MultilinearMap R M₁' M₂) (f : ∀ i, M₁ i →ₗ[R]
...
 /-- Composing a multilinear map with a linear equiv on each argument gives the zero map
 if and only if the multilinear map is the zero map. -/
 @[simp]
-theorem comp_linearEquiv_eq_zero_iff (g : MultilinearMap R M₁' M₂) (f : ∀ i, M₁ i ≃ₗ[R] M₁' i) :
-    (g.compLinearMap fun i => (f i : M₁ i →ₗ[R] M₁' i)) = 0 ↔ g = 0 := by
-  set f' := fun i => (f i : M₁ i →ₗ[R] M₁' i)
-  rw [← zero_compLinearMap f', compLinearMap_inj f' fun i => (f i).surjective]
-
+theorem comp_linearEquiv_eq_zero_iff {σ₂₁ : R₂ →+* R₁} [RingHomInvPair σ₁₂ σ₂₁]
+  [RingHomInvPair σ₂₁ σ₁₂] (g : MultilinearMap σ₂₃ M₂ N₃) (f : ∀ i, M₁ i ≃ₛₗ[σ₁₂] M₂ i) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]:
```suggestion
    [RingHomInvPair σ₂₁ σ₁₂] (g : MultilinearMap σ₂₃ M₂ N₃) (f : ∀ i, M₁ i ≃ₛₗ[σ₁₂] M₂ i) :
```

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 6]
```diff
@@ -640,70 +647,68 @@ end ApplySum
...
+    let := σι.injective.decidableEq
     simp_rw [Function.update_apply_equiv_apply v]
     rw [m.map_update_add]
   map_update_smul' v i a b := by
-    let := σ.injective.decidableEq
+    let := σι.injective.decidableEq
     simp_rw [Function.update_apply_equiv_apply v]
     rw [m.map_update_smul]
 
 theorem domDomCongr_trans (σ₁ : ι₁ ≃ ι₂) (σ₂ : ι₂ ≃ ι₃)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Can you rename `σ₁` and `σ₂` to anything else, since the ring homomorphism is now `σ`?
Same thing below

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 7]
```diff
@@ -789,90 +793,100 @@ end MultilinearMap
...
 
 @[simp]
-theorem compMultilinearMap_smul [DistribSMul S M₂] [DistribSMul S M₃]
-    [SMulCommClass R S M₂] [SMulCommClass R S M₃] [CompatibleSMul M₂ M₃ S R]
-    (g : M₂ →ₗ[R] M₃) (s : S) (f : MultilinearMap R M₁ M₂) :
-    g.compMultilinearMap (s • f) = s • g.compMultilinearMap f :=
+theorem compMultilinearMap_smul [DistribSMul S N₂] [DistribSMul S N₂']
+    [SMulCommClass R₂ S N₂] [SMulCommClass R₂ S N₂'] [CompatibleSMul N₂ N₂' S R₂]
+    (g : N₂ →ₗ[R₂] N₂') (s : S) (f : MultilinearMap σ₁₂ M₁ N₂) :
+    g.compMultilinearMap (s • f) = s • (g.compMultilinearMap f) :=
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]:
```suggestion
    g.compMultilinearMap (s • f) = s • g.compMultilinearMap f :=
```

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 8]
```diff
@@ -789,90 +793,100 @@ end MultilinearMap
...
   MultilinearMap.ext fun _ => g.map_smul_of_tower _ _
 
 @[simp]
-theorem smul_compMultilinearMap [Monoid S] [DistribMulAction S M₃] [SMulCommClass R S M₃]
-    (g : M₂ →ₗ[R] M₃) (s : S) (f : MultilinearMap R M₁ M₂) :
+theorem compMultilinearMap_smulₛₗ [SMulCommClass R₂ R₂ N₂] [SMulCommClass R₃ R₃ N₃]
+    (g : N₂ →ₛₗ[σ₂₃] N₃) (r : R₂) (f : MultilinearMap σ₁₂ M₁ N₂) :
+    g.compMultilinearMap (r • f) = σ₂₃ r • (g.compMultilinearMap f) :=
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: I don't think it's needed here either?
```suggestion
    g.compMultilinearMap (r • f) = σ₂₃ r • g.compMultilinearMap f :=
```

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 6 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Make sense - I've renamed the index equivalences to `e` and `e'` in this file.

**Comment by gloges** [comment]
Thanks - I've made the suggested changes and renamed equivalences between index sets to `e` to avoid confusion with the ring homomorphisms `σ`.

**Comment by winstonyin** [comment]
Just dropping to to support this PR. Will take a look myself and hope this lands soon. Thanks!

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 9]
```diff
@@ -789,90 +793,100 @@ end MultilinearMap
...
 
 @[simp]
-theorem compMultilinearMap_smul [DistribSMul S M₂] [DistribSMul S M₃]
-    [SMulCommClass R S M₂] [SMulCommClass R S M₃] [CompatibleSMul M₂ M₃ S R]
-    (g : M₂ →ₗ[R] M₃) (s : S) (f : MultilinearMap R M₁ M₂) :
+theorem compMultilinearMap_smul [DistribSMul S N₂] [DistribSMul S N₂']
+    [SMulCommClass R₂ S N₂] [SMulCommClass R₂ S N₂'] [CompatibleSMul N₂ N₂' S R₂]
+    (g : N₂ →ₗ[R₂] N₂') (s : S) (f : MultilinearMap σ₁₂ M₁ N₂) :
     g.compMultilinearMap (s • f) = s • g.compMultilinearMap f :=
   MultilinearMap.ext fun _ => g.map_smul_of_tower _ _
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:857]: can you move this below the `_smulₛₗ` version and then use it in the proof?

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 10]
```diff
@@ -1007,20 +1022,21 @@ end Semiring
 
 section CommSemiring
 
-variable [CommSemiring R] [∀ i, AddCommMonoid (M₁ i)] [∀ i, AddCommMonoid (M i)] [AddCommMonoid M₂]
-  [∀ i, Module R (M i)] [∀ i, Module R (M₁ i)] [Module R M₂] (f f' : MultilinearMap R M₁ M₂)
-
 section
-variable [Π i, AddCommMonoid (M₁' i)] [Π i, Module R (M₁' i)]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1014]: I don't like that you changed `Π i` to `∀ i`. Can you change them back to `Π i`  here?

(I won't suggest you to change it everywhere because I don't think there's a consensus yet.)

**Review by themathqueen — COMMENTED** [review]
can you merge master and then comment `radar!`

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 10 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1014]: Fair enough! I've changed `∀ i` to `Π i` for `M₂` (previously `M₁'`) in just this section to match how it was before.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 9 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:857]: I gave this a shot but it doesn't seem to work since `S` need not even be a ring.

**Comment by gloges** [comment]
radar!

**Comment by themathqueen** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6077e9eeb1270c5200f90fcd8da1a4a96db942e2?reference=01c8d16a8c31eed40a54a38a8c8006c4ee001152) for 6077e9eeb1270c5200f90fcd8da1a4a96db942e2 against 01c8d16a8c31eed40a54a38a8c8006c4ee001152 are in. There are significant results. @themathqueen

- 🟥 [`main`](https://radar.lean-lang.org/repos/mathlib4/commits/6077e9eeb1270c5200f90fcd8da1a4a96db942e2/runs/main) exited with code **1**

No significant changes detected.

**Comment by gloges** [comment]
!radar

**Comment by gloges** [comment]
-awaiting-author

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/041893d42d0e1243508415173b374fd3830d7cb3?reference=01c8d16a8c31eed40a54a38a8c8006c4ee001152) for 041893d42d0e1243508415173b374fd3830d7cb3 against 01c8d16a8c31eed40a54a38a8c8006c4ee001152 are in. No significant results found. @gloges

- 🟥 `build//instructions`: **+21.8G** (**+0.02%**)

**Medium changes (1🟥)**

- 🟥 `build/module/Mathlib.LinearAlgebra.Multilinear.Curry//instructions`: **+1.3G** (**+6.69%**)

**Small changes (15🟥)**

- 🟥 `build/module/Mathlib.Analysis.Analytic.IteratedFDeriv//instructions`: **+412.9M** (**+1.21%**)
- 🟥 `build/module/Mathlib.Analysis.Calculus.DifferentialForm.Basic//instructions`: **+564.0M** (**+1.63%**)
- 🟥 `build/module/Mathlib.Analysis.Normed.Module.Alternating.Basic//instructions`: **+1.2G** (**+1.89%**)
- 🟥 `build/module/Mathlib.Analysis.Normed.Module.Alternating.Uncurry.Fin//instructions`: **+685.8M** (**+1.61%**)
- 🟥 `build/module/Mathlib.Analysis.Normed.Module.Multilinear.Basic//instructions`: **+2.4G** (**+1.94%**)
- 🟥 `build/module/Mathlib.Analysis.Normed.Module.Multilinear.Curry//instructions`: **+3.1G** (**+3.46%**)
- 🟥 `build/module/Mathlib.Analysis.Normed.Module.PiTensorProduct.InjectiveSeminorm//instructions`: **+817.6M** (**+2.45%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.Alternating.Basic//instructions`: **+825.6M** (**+1.92%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.Alternating.DomCoprod//instructions`: **+829.7M** (**+3.28%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.Multilinear.Basic//instructions`: **+8.2G** (**+13.61%**) (reduced significance based on *//lines)
- 🟥 `build/module/Mathlib.LinearAlgebra.Multilinear.DFinsupp//instructions`: **+847.9M** (**+3.65%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.PiTensorProduct.Basic//instructions`: **+2.2G** (**+3.46%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.PiTensorProduct.DFinsupp//instructions`: **+229.3M** (**+2.69%**)
- 🟥 `build/module/Mathlib.LinearAlgebra.TensorPower.Basic//instructions`: **+1.4G** (**+2.68%**)
- 🟥 `build/module/Mathlib.RingTheory.PiTensorProduct//instructions`: **+550.6M** (**+1.45%**)

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 11]
```diff
@@ -1087,61 +1103,98 @@ sending a multilinear map `g` to `g (f₁ ⬝ , ..., fₙ ⬝ )` is linear in `g
...
+
+/-- An isomorphism of multilinear maps given an isomorphism between their codomains.
+
+This is `LinearMap.compMultilinearMap` as a `σ₂₃`-linear equivalence, and a multilinear version
+of `LinearEquiv.congrRight`: see also `LinearEquiv.multilinearMapCongrRight`. -/
+@[simps! apply symm_apply]
+def _root_.LinearEquiv.multilinearMapCongrRightₛₗ {σ₃₂ : R₃ →+* R₂} [RingHomInvPair σ₂₃ σ₃₂]
+    [RingHomInvPair σ₃₂ σ₂₃] [RingHomCompTriple σ₁₃ σ₃₂ σ₁₂] (g : N₂ ≃ₛₗ[σ₂₃] N₃) :
+    MultilinearMap σ₁₂ M₁ N₂ ≃ₛₗ[σ₂₃] MultilinearMap σ₁₃ M₁ N₃ where
+  __ := g.toLinearMap.compMultilinearMapₛₗ
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean:1141]: can you also add `toLinearMap_multilinearMapCongrRightₛₗ` (i.e., `g.multilinearMapCongrRightₛₗ.toLinearMap = g.toLinearMap.compMultilinearMapₛₗ`)

Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1143]: Added - should this be a `simp` lemma?

**Comment by gloges** [comment]
With the new additions `LinearAlgebra/Multilinear/Basic.lean` has tipped over the 1500 line threshold. I've added `set_option linter.style.longFile 1600` at the beginning of the file, but please let me know if there is a more appropriate solution.

**Comment by gloges** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 11 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean:1143]: Yes

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 12]
```diff
@@ -1088,61 +1105,105 @@ sending a multilinear map `g` to `g (f₁ ⬝ , ..., fₙ ⬝ )` is linear in `g
...
+  toFun := g.compMultilinearMap
+  map_add' := g.compMultilinearMap_add
+  map_smul' := g.compMultilinearMap_smulₛₗ
+
+/-- An isomorphism of multilinear maps given an isomorphism between their codomains.
+
+This is `LinearMap.compMultilinearMap` as a `σ₂₃`-linear equivalence, and a multilinear version
+of `LinearEquiv.congrRight`: see also `LinearEquiv.multilinearMapCongrRight`. -/
+@[simps! apply symm_apply]
+def _root_.LinearEquiv.multilinearMapCongrRightₛₗ {σ₃₂ : R₃ →+* R₂} [RingHomInvPair σ₂₃ σ₃₂]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: are these used anywhere in this PR?

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 13]
```diff
@@ -1008,20 +1024,21 @@ end Semiring
...
-variable [CommSemiring R] [∀ i, AddCommMonoid (M₁ i)] [∀ i, AddCommMonoid (M i)] [AddCommMonoid M₂]
-  [∀ i, Module R (M i)] [∀ i, Module R (M₁ i)] [Module R M₂] (f f' : MultilinearMap R M₁ M₂)
-
 section
-variable [Π i, AddCommMonoid (M₁' i)] [Π i, Module R (M₁' i)]
+
+variable [Semiring R₁] [Semiring R₂] [CommSemiring R₃]
+variable {σ₁₂ : R₁ →+* R₂} {σ₂₃ : R₂ →+* R₃} {σ₁₃ : R₁ →+* R₃} [RingHomCompTriple σ₁₂ σ₂₃ σ₁₃]
+variable [∀ i, AddCommMonoid (M₁ i)] [Π i, AddCommMonoid (M₂ i)] [AddCommMonoid N₃]
+variable [∀ i, Module R₁ (M₁ i)] [Π i, Module R₂ (M₂ i)] [Module R₃ N₃]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: otherwise it looks weird for there to be both forall and pi on the same lines
```suggestion
variable [Π i, AddCommMonoid (M₁ i)] [Π i, AddCommMonoid (M₂ i)] [AddCommMonoid N₃]
variable [Π i, Module R₁ (M₁ i)] [Π i, Module R₂ (M₂ i)] [Module R₃ N₃]
```

**Comment by themathqueen** [comment]
I've tweaked the PR description a tiny bit, let me know if you're happy with that.

**Review by themathqueen — APPROVED** [review]
I think I'm happy with this, thanks :)

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 12 above)
Comment (gloges) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Only in the new `toLinearMap_multilinearMapCongrRightₛₗ` lemma.

**Comment by gloges** [comment]
The change to the PR description makes sense. Thanks for your help and patience in getting this improved and mathlib-ready!

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 12 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: can you split those off in another PR? so there would be minimum added stuff to the refactor

**Comment by themathqueen** [comment]
I wonder if we should first do the notation for multilinear maps, then do this PR?
What do you think @gloges? (you can say no)
Otherwise I think this PR is ready. Let me know what you want to do :)

**Comment by gloges** [comment]
I think that makes sense to do notation first so that this PR doesn't have to touch files which keep `.id R`.
I will open a PR shortly with a notation for `MultilinearMap R M N`, then this PR can just add the RingHom (and extend the notation accordingly).
